US09169246B2
Step 25.2. 7-(1-oxidopyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. by treating 7-(1-oxidopyrid-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-(1-oxidopyridin-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one with 4M HCl in dioxane, in the form of a white powder (hydrochloride, 1 H2O; yield 99%).

reactant | 7-(1-oxidopyrid-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | [O-][N+]1=C(C=CC=C1)C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C22H19F3N4O3
reactant | 7-(1-oxidopyridin-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | [O-][N+]1=C(C=CC=C1)C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C22H21F3N4O3
reactant | HCl | 4M | Cl | ClH
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-(1-oxidopyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 99% | Cl.[O-][N+]1=C(C=CC=C1)C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C17H11F3N4O2.ClH/c18-17(19,20)9-23-14-7-10(13-3-1-2-6-24(13)26)4-5-11(14)15-12(16(23)25)8-21-22-15;/h1-8H,9H2,(H,21,22);1H
